US07157488B2
3-(3,3,3-Trifluoropropoxy)benzaldehyde
Combine 3,3,3-trifluoropropyl tosylate (4.057 gm; 15.12 mmol), 3-hydroxybenzaldehyde (1.85 gm; 15.12 mmol), and K2CO3 (4.15 gm; 30.0 mmol) in DMF (80 mL) and heat at 100° C. After 18 hours, cool to room temperature, dilute with water (200 mL) and extract with dichloromethane (2×200 mL). Combine organic extracts and wash sequentially with water (100 mL), 0.1 M NaOH (2×100 mL), saturated sodium bicarbonate (100 mL) and saturated brine (100 mL), dry (MgSO4), and concentrate. Chromatography on silica gel (0–20% ethyl acetate in hexane) to give the title product.

reactant | 3,3,3-trifluoropropyl tosylate | 15.12 mmol, 4.057 gm | S(=O)(=O)(OCCC(F)(F)F)C1=CC=C(C)C=C1 | C10H11F3O3S
reactant | 3-hydroxybenzaldehyde | 15.12 mmol, 1.85 gm | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | K2CO3 | 30.0 mmol, 4.15 gm | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | 3-(3,3,3-Trifluoropropoxy)benzaldehyde | FC(CCOC=1C=C(C=O)C=CC1)(F)F | C10H9F3O2
